US05169430
Preparation of 2-chloro-5-nitrobenzenesulfonylchloride.
To a mixture of 104 g of commercially available sodium 2-chloro-5-nitrobenzenesulfonate, 200 ml of acetonitrile and 200 ml of sulfolane stirred at 25° C., was added 153 ml of phosphorus oxychloride over a period of 30 minutes. The temperature was not allowed to exceed 40° C. After completion of the addition, the reaction mixture was heated to 70° C. for 1.5 hours. On cooling to 0°C., the reaction mixture was poured over ice. The resulting solid product was washed with cold water, filtered and air-dried to give 77.6 g of the title compound with a melting point of 87°-89° C.

reactant | sodium 2-chloro-5-nitrobenzenesulfonate | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)[O-].[Na+]
reactant | sulfolane | 200 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | phosphorus oxychloride | 153 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 2-chloro-5-nitrobenzenesulfonylchloride | 77.6 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3Cl2NO4S
